US07727985B2
A solution of (S)-4-((S)-2-tert-butoxycarbonylamino-propyl)-6,6-dimethyl-morpholine-3-carboxylic acid (3.316 g, 10.5 mmol) (prepared by reductively alkylating (S)-6,6-dimethyl-morpholine-3-carboxylic acid with N-(tert-butoxycarbonyl)-L-alanal) in anhydrous pyridine (75 mL) was stirred at room temperature. 6-chloro-4-methyl-9H-β-carbolin-8-ylamine (1.869 g, 8.09 mmol) was added, followed by EDCI (2.894 g, 15.1 mmol). The reaction was stirred at room temperature for 14-18 hours under argon. The reaction was partially concentrated, diluted with H2O (20 mL) and transferred to a separatory funnel. The mixture was diluted with brine (50 mL) and extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine, dried, filtered and concentrated to afford a dark residue. Column chromatography (0-8% MeOH/CH2Cl2) yielded {(S)-2-[(S)-5-(6-Chloro-4-methyl-9H-β-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-1-methyl-ethyl}-carbamic acid tert-butyl ester as a light tan solid (2.688 g).

reactant | (S)-4-((S)-2-tert-butoxycarbonylamino-propyl)-6,6-dimethyl-morpholine-3-carboxylic acid | 10.5 mmol, 3.316 g | C(C)(C)(C)OC(=O)N[C@H](CN1[C@@H](COC(C1)(C)C)C(=O)O)C | C15H28N2O5
reactant | (S)-6,6-dimethyl-morpholine-3-carboxylic acid | CC1(OC[C@H](NC1)C(=O)O)C | C7H13NO3
reactant | 6-chloro-4-methyl-9H-β-carbolin-8-ylamine | 8.09 mmol, 1.869 g | ClC=1C=C2C=3C(=CN=CC3NC2=C(C1)N)C | C12H10ClN3
reactant | EDCI | 15.1 mmol, 2.894 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | {(S)-2-[(S)-5-(6-Chloro-4-methyl-9H-β-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | 2.688 g | C(C)(C)(C)OC(N[C@H](CN1CC(OC[C@H]1C(NC=1C=C(C=C2C=3C(=CN=CC3NC12)C)Cl)=O)(C)C)C)=O | C27H36ClN5O4
